US07612114B2
{5-(tert-Butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}(2-fluoroethyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amine
To a solution of sodium fluoroacetate (420 mg) in dichloromethane (20 ml) were added dropwise N,N-dimethylformamide (1 drop) and oxalyl chloride (0.48 ml) on an ice bath, the solution was stirred for 20 minutes at room temperature, an aqueous solution of 1N sodium hydroxide was added thereto, the solution was stirred for 1 minute at room temperature, then a solution of {5-(tert-butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}[3-fluoro-4-(2-piperidin-1-yl-ethoxy)benzyl]amine (300 mg) in dichloromethane (5 ml) was added thereto followed by stirring at room temperature for 3 hours. The solution extracted with dichloromethane, then washed with brine, dried over anhydrous magnesium sulfate, then the solvent was evaporated in vacuo. Synthesized from the resulting residue according to an analogous synthetic method to Example 337 described below, the title compound (200 mg) was obtained.

reactant | sodium fluoroacetate | 420 mg | FCC(=O)[O-].[Na+]
reactant | oxalyl chloride | 0.48 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | sodium hydroxide | 1N | [OH-].[Na+]
reactant | {5-(tert-butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}[3-fluoro-4-(2-piperidin-1-yl-ethoxy)benzyl]amine | 300 mg | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(C1)NCC1=CC(=C(C=C1)OCCN1CCCCC1)F)C1CC2=CC=C(C=C2CC1)O[Si](C)(C)C(C)(C)C | C42H63FN2O3Si2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | {5-(tert-Butyldimethylsilyloxy)-2-[6-(tert-butyldimethylsilyloxy)-1,2,3,4-tetrahydronaphthalen-2-yl]phenyl}(2-fluoroethyl)[3-fluoro-4-(2-piperidin-1-ylethoxy)benzyl]amine | 200 mg | [Si](C)(C)(C(C)(C)C)OC=1C=CC(=C(C1)N(CC1=CC(=C(C=C1)OCCN1CCCCC1)F)CCF)C1CC2=CC=C(C=C2CC1)O[Si](C)(C)C(C)(C)C | C44H66F2N2O3Si2
